US04082892
2,4-Diethyl-4-methacryloyloxymethyl-2-oxazoline is prepared from 2-amino-2-ethyl-1,3-propanediol, propionic acid and methacrylic acid.

reactant | 2-amino-2-ethyl-1,3-propanediol | NC(CO)(CO)CC | C5H13NO2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 2,4-Diethyl-4-methacryloyloxymethyl-2-oxazoline | C(C)C=1OCC(N1)(COC(C(=C)C)=O)CC | C12H19NO3
